US06586617B1
4-Amino-3-chlorobenzonitrile (1.50 g (9.83 mmol)) was dissolved in 5.0 ml of pyridine. To this, p-toluenesulfonyl chloride (1.90 g (9.97 mmol)) was added under cooling with ice and with stirring. After stirring for 18 hours at room temperature, water (100 ml) was added to the reaction mixture to bring about separation of crystals. The crystals were filtered, washed with water and then dissolved in an aqueous solution of sodium hydroxide. The resulting solution was washed with diethyl ether, and the water layer was made acidic again with hydrochloric acid and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 1.65 g (55%) of 2′-chloro-4′-cyano-p-toluenesulfonanilide as white crystals.

reactant | 4-Amino-3-chlorobenzonitrile | 9.83 mmol, 1.50 g | NC1=C(C=C(C#N)C=C1)Cl | C7H5ClN2
reactant | p-toluenesulfonyl chloride | 9.97 mmol, 1.90 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 100 ml | O | H2O
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | 2′-chloro-4′-cyano-p-toluenesulfonanilide | 1.65 g, 55% | ClC1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)C#N | C14H11ClN2O2S
